US09062055B2
Step 2. Methyl 3-cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylate
Activated molecular sieves (6.0 g, 27 mmol) 4 Å were placed in an oven dried flask and cooled to room temperature under nitrogen. To the flask was charged with methyl 3-cyano-1H-indole-2-carboxylate (0.45 g, 2.2 mmol), (3-fluorophenyl)boronic acid (0.94 g, 6.7 mmol), cupric acetate (0.61 g, 3.4 mmol), methylene chloride (43 mL) and pyridine (0.73 mL, 9.0 mmol). The reaction mixture was stirred at room temperature over the weekend. The mixture was filtered through a pad of Celite. The filtrate was concentrated and purified on silica gel (eluting with 0-60% EtOAc/hexane) to give the desired product (0.39 g, 59%). LCMS calculated for C17H12FN2O2(M+H)+: m/z=295.1. Found: 295.0.

reactant | methyl 3-cyano-1H-indole-2-carboxylate | 2.2 mmol, 0.45 g | C(#N)C1=C(NC2=CC=CC=C12)C(=O)OC | C11H8N2O2
reactant | (3-fluorophenyl)boronic acid | 6.7 mmol, 0.94 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | pyridine | 9.0 mmol, 0.73 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 43 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-cyano-1-(3-fluorophenyl)-1H-indole-2-carboxylate | 0.39 g, 59% | C(#N)C1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(=O)OC | C17H11FN2O2
